US06362203B1
To 30 mL of anhydrous tetrahydrofuran was added 940 mg (39 mmol) of magnesium powder. The one-fifth of a solution obtained by dissolving 10 g (38 mmol) of 2-benzyloxybromobenzene in 30 mL of anhydrous tetrahydrofuran was added. To the resulting mixture were added 0.1 mL of 1,2-dibromoethane and a small amount of iodine, followed by heating to 60 to 70° C. When the reaction started, the remaining portion of the anhydrous tetrahydrofuran solution of 2-benzyloxybromobenzene was added dropwise and the mixture was heated to reflux for further 30 minutes. In the resulting anhydrous tetrahydrofuran solution of Grignard reagent, 7 g (37 mmol) of 1-benzyl-4-piperidone dissolved in 30 mL of anhydrous tetrahydrofuran was added dropwise at room temperature. After heating to reflux for 30 minutes, 10 mL of a saturated aqueous solution of ammonium chloride was added dropwise and the solvent was concentrated under reduced pressure. Water was added to the residue and the mixture was extracted with ether, followed by washing with water and drying. The residue obtained by concentrating the solvent under reduced pressure was purified by chromatography on a silica gel column, whereby 12 g (yield: 87.0%) of 1-benzyl-4-(2-benzyloxyphenyl)-4-piperidinol was obtained.

reactant | magnesium | 39 mmol, 940 mg | [Mg] | Mg
reactant | 2-benzyloxybromobenzene | 38 mmol, 10 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)Br | C13H11BrO
reactant | 1,2-dibromoethane | 0.1 mL | BrCCBr | C2H4Br2
reactant | iodine | II | I2
reactant | 1-benzyl-4-piperidone | 37 mmol, 7 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 1-benzyl-4-(2-benzyloxyphenyl)-4-piperidinol | 12 g, yield: 87.0% | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=C(C=CC=C1)OCC1=CC=CC=C1 | C25H27NO2
